US09212187B2
Synthesis of 8-methoxy-1-methyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione
Sodium ethoxide (204 mg) was added to an ethanol solution (15 ml) of N-(2-amino-5-methoxyphenyl)-N-methylmalonamic acid ethyl ester (266 mg). The mixture was stirred at 65° C. for 2.5 hours. The reaction liquid was cooled to room temperature, and condensed under reduced pressure. The residue was purified by silica gel column chromatography (dichloromethane: methanol=1:0→10:1). The purified product was condensed to dryness under reduced pressure to give the title compound (176.3 mg) as a white powder.

reactant | Sodium ethoxide | 204 mg | [O-]CC.[Na+]
reactant | N-(2-amino-5-methoxyphenyl)-N-methylmalonamic acid ethyl ester | 266 mg | C(C)OC(CC(=O)N(C)C1=C(C=CC(=C1)OC)N)=O | C13H18N2O4
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 8-methoxy-1-methyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 176.3 mg | COC=1C=CC2=C(N(C(CC(N2)=O)=O)C)C1 | C11H12N2O3
